US05294612
To a mixture of 1-cyclopentyl-3-methyl-6-(4-piperidinyl)pyrazolo[3,4-d]pyrimidin-4-one (0.79 g, 2.6 mmol), triethylamine (2.0 ml), and chloroform (25 ml) was added acetic anhydride (2.0 ml, 0.02 mol). The mixture was stirred for 3 hours and the solvent was removed in vacuo. The residue was treated with water and the product was collected by filtration to afford 0.8 g (90%) of 1-cyclopentyl-3-methyl-6-(1-acetyl-4-piperidinyl)pyrazolo[3,4-d]pyrimidin-4-one as white needles, m.p. 176°-178° C. when recrystallized from cyclohexane.

reactant | 1-cyclopentyl-3-methyl-6-(4-piperidinyl)pyrazolo[3,4-d]pyrimidin-4-one | 2.6 mmol, 0.79 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2CCNCC2)C | C16H23N5O
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.02 mol, 2.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-cyclopentyl-3-methyl-6-(1-acetyl-4-piperidinyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.8 g, 90% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2CCN(CC2)C(C)=O)C | C18H25N5O2
